US05128355
A solution of 35.08 g of methyl 2-(4-methylphenoxy)benzoate, 25.7 g of N-bromosuccinimide, 0.57 g of azobisisobutyronitrile, and 1200 mL of carbon tetrachloride was refluxed for 3 hours. After cooling to room temperature the resulting suspension was filtered and then concentrated in vacuo to provide 4.51 g of crude methyl 2-(4-bromomethylphenoxy)benzoate which was used in a subsequent reaction without further purification; NMR (200 MHz, CDCl3): δ 7.92 (d of d, 1H); 7.45 (t of d, 1H); 7.16 (m, 3H); 6.90 (m, 3H); 4.49 (s, 2H); 3.83 (s, 3H).

reactant | methyl 2-(4-methylphenoxy)benzoate | 35.08 g | CC1=CC=C(OC2=C(C(=O)OC)C=CC=C2)C=C1 | C15H14O3
reactant | N-bromosuccinimide | 25.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 0.57 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 1200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 2-(4-bromomethylphenoxy)benzoate | 4.51 g | BrCC1=CC=C(OC2=C(C(=O)OC)C=CC=C2)C=C1 | C15H13BrO3
